US08809376B2
{(S)-6-[(R)-5-Cyano-4-(2,3-difluoro-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 2,3-difluoro-benzyl bromide following a procedure analogous to that described for Intermediate 7. LC (method 4): tR=1.25 min; Mass spectrum (ESI+): m/z=476 [M+H]+.

reactant | {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)Br)=O | C21H18BrNO4
reactant | 2,3-difluoro-benzyl bromide | FC1=C(CBr)C=CC=C1F | C7H5BrF2
product | {(S)-6-[(R)-5-Cyano-4-(2,3-difluoro-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)CC2=C(C(=CC=C2)F)F)=O | C28H23F2NO4
